US07368578B2
A mixture of methyl 3-(4-chloromethyl-5-methyl-1,3-oxazol-2-yl)benzoate (2.0 g), 4-hydroxybenzaldehyde (0.87 g), potassium carbonate (0.98 g) and N,N-dimethylformamide (50 mL) was stirred at 90° C. for 2 hrs. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give methyl 3-{4-[(4-formylphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}benzoate as colorless crystals (2.33 g, yield 94%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 103-104° C.

reactant | methyl 3-(4-chloromethyl-5-methyl-1,3-oxazol-2-yl)benzoate | 2.0 g | ClCC=1N=C(OC1C)C=1C=C(C(=O)OC)C=CC1 | C13H12ClNO3
reactant | 4-hydroxybenzaldehyde | 0.87 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | potassium carbonate | 0.98 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | methyl 3-{4-[(4-formylphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}benzoate | 2.33 g, yield 94% | C(=O)C1=CC=C(OCC=2N=C(OC2C)C=2C=C(C(=O)OC)C=CC2)C=C1 | C20H17NO5
